US07365085B2
e. N-(2-[4-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine
The titled compound was prepared from N-(2-Chloro-3-trifluoromethylbenzyl)-2-(4-methoxyphenyl)propylamine in 26% yield in the same manner as the preparation of N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine in Example 184f. MS (ESI) 564 (MH+)

reactant | N-(2-Chloro-3-trifluoromethylbenzyl)-2-(4-methoxyphenyl)propylamine | ClC1=C(CNCC(C)C2=CC=C(C=C2)OC)C=CC=C1C(F)(F)F | C18H19ClF3NO
reactant | N-(2-[2-Chlorophenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | ClC1=C(C=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)C | C29H30Cl2F3NO3
product | N-(2-[4-Methoxyphenyl]-propyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-(3-carbomethoxymethylenephenoxy)propylamine | 26% yield | COC1=CC=C(C=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC=1CC(C=CC1)=CC(=O)OC)C | C30H33ClF3NO4
